US07855227B2
2-[[2-(3-Butoxy-phenyl)-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide hydrochloride
A solution of 2-[[2-(3-hydroxy-phenyl)-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide (1.0 g 3.3 mmol), 1-bromobutane (0.43 ml, 4 mmol), potassium carbonate (680 mg 5 mmol), potassium iodine (50 mg, 0.3 mmol), in DMF (30 ml) was refluxed for 16 h. After filtration over celite pad, the solution was evaporated from the solvent and the crude oil obtained purified by preparative HPLC. The hydrochloride salt was prepared by adding HCl 1N in AcOEt to the free amine dissolved in ethyl ether. After filtration, 690 mg (50% yield) the title compound was obtained as a white solid of 99% purity.

reactant | 2-[[2-(3-hydroxy-phenyl)-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide | 3.3 mmol, 1.0 g | OC=1C=C(C=CC1)CCN(CC(=O)N(C)C)CC1COCC1 | C17H26N2O3
reactant | 1-bromobutane | 4 mmol, 0.43 ml | BrCCCC | C4H9Br
reactant | potassium carbonate | 5 mmol, 680 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodine | 0.3 mmol, 50 mg | [I].[K]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-[[2-(3-Butoxy-phenyl)-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide hydrochloride | 690 mg, 50% yield | Cl.C(CCC)OC=1C=C(C=CC1)CCN(CC(=O)N(C)C)CC1COCC1 | InChI=1S/C21H34N2O3.ClH/c1-4-5-12-26-20-8-6-7-18(14-20)9-11-23(16-21(24)22(2)3)15-19-10-13-25-17-19;/h6-8,14,19H,4-5,9-13,15-17H2,1-3H3;1H
